US09120822B2
Borane dimethyl sulfide complex (2M solution in tetrahydrofuran, 60.0 mL, 120.0 mmol, 24.5 eq) is added at room temperature to a stirred solution of 3-(trans-4-amino-cyclohexyl)-6-methoxy-1H-4-oxa-1,5,9-triaza-phenanthren-2-one (1.67 g, 4.88 mmol, 1.0 eq) in tetrahydrofuran (600 mL). The reaction mixture is heated to reflux for 3 hours, cooled down to 0° C. and cautiously quenched with methanol (100 mL) and then evaporated to give crude trans-4-(6-methoxy-1-methyl-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexylamine that is directly engaged in the next step.

reactant | Borane dimethyl sulfide | 120.0 mmol, 2M, 60.0 mL, 24.5 eq | CSC.B
reactant | 3-(trans-4-amino-cyclohexyl)-6-methoxy-1H-4-oxa-1,5,9-triaza-phenanthren-2-one | 4.88 mmol, 1.67 g, 1.0 eq | N[C@@H]1CC[C@H](CC1)C1C(NC=2C=NC3=CC=C(N=C3C2O1)OC)=O | C17H20N4O3
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | trans-4-(6-methoxy-1-methyl-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexylamine | COC=1N=C2C=3OC(CN(C3C=NC2=CC1)C)[C@@H]1CC[C@H](CC1)N | C18H24N4O2
